US07342131B2
Step A: Bromoethyl Benzoate
To a solution of benzoic acid (2.44 g, 20 mmol) and 2-bromoethan-1-ol (1.42 mL, 20 mmol) in 40 mL of anhydrous dichloromethane, a solution of 1,3-dicyclohexylcarbodiimide (4.12 g, 20 mmol) in dichloromethane was slowly added followed by addition of a catalytic amount of 4-(dimethylamino)pyridine. The resulting mixture was stirred at room temperature for 16 hrs. After filtration, the filtrate was washed with 5% NaHCO3, brine, and dried over Na2SO4. After removing the solvent, chromatography (silica gel, 10% ethyl acetate in hexane) of the residue gave 3.7 g (82%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 3.62 (t, J=6 Hz, 2H), 4.60 (t, J=6 Hz, 2H), 7.42 (m, 2H), 7.54 (m, 2H), 8.04 (m, 2H).

reactant | benzoic acid | 20 mmol, 2.44 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-bromoethan-1-ol | 20 mmol, 1.42 mL | BrCCO | C2H5BrO
reactant | 1,3-dicyclohexylcarbodiimide | 20 mmol, 4.12 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Bromoethyl Benzoate | 3.7 g, 82% | C(C1=CC=CC=C1)(=O)OCCBr | C9H9BrO2
